US04743614
To a mixture of (2S,3R)-2-amino-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (700 mg) and triethylamine (1.29 ml) in a mixture of water (10 ml) and dioxane was added t-butoxycarbonyl-L-alanine N-hydroxysuccinimide ester and the mixture was stirred for 4 hours at room temperature. The solvent was evaporated in vacuo and the residue was dissolved in 75% aqueous trifluoroacetic acid (20 ml). The solution was stored overnight at room temperature and the solvent was evaporated in vacuo. The residue was subjected to a column of Dowex 50W x 8 (30 ml) and the column was washed with water. The elution was carried out with 2.8% aqueous ammonia. The object fractions were collected and evaporated in vacuo. The residue was subjected to a column of Whatman CM52 (150 ml) and the elution was carried out with pyridine-acetic acid buffer (0.01M-0.14M, pH 4.9). The object fractions were collected and evaporated in vacuo. The residue was dissolved in water and lyophilized to give (2S,3R)-2-[[(2S)-2-aminopropionyl]amino]-3-[[(1S)-1-carboxy-2-(4 -imidazolyl)ethyl]amino]butyric acid (580 mg).

reactant | (2S,3R)-2-amino-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 700 mg | N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O | C10H16N4O4
reactant | triethylamine | 1.29 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | (2S,3R)-2-[[(2S)-2-aminopropionyl]amino]-3-[[(1S)-1-carboxy-2-(4 -imidazolyl)ethyl]amino]butyric acid | 580 mg | N[C@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)C | C13H21N5O5
